US06706731B2
396 mg (1.48 mmol) of 8-[(6-methoxy-pyridin-3-yl)-methyl]-6H-[1,6]naphthyridin-5-one in 24 ml of acetonitrile are mixed, whilst excluding air, with 1.4 ml (15 mmol) of phosphorus oxychloride and 0.78 ml of 4 N HCl in dioxane and stirred for 96 h at 65° C. After cooling to RT, partial concentration by evaporation takes place on a RE, then 40 ml of ice water and 10 ml of NH3 solution are added and extraction carried out 3 times with EtOAc. The organic phases are washed with water and brine, dried (Na2SO4) and concentrated by evaporation to form 5-chloro-8-[(6-methoxy-pyridin-3-yl)-methyl]-[1,6]naphthyridine (contaminated with a little 5-chloro-8-[(6-chloro-pyridin-3-yl)-methyl]-[1,6]naphthyridine); FAB-MS: (M+H)+=286; HPLC(gradient20-100) tRet=10.2.

reactant | 8-[(6-methoxy-pyridin-3-yl)-methyl]-6H-[1,6]naphthyridin-5-one | 1.48 mmol, 396 mg | COC1=CC=C(C=N1)CC1=CNC(C=2C=CC=NC12)=O | C15H13N3O2
reactant | phosphorus oxychloride | 15 mmol, 1.4 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | HCl | 4 N, 0.78 ml | Cl | ClH
solvent | acetonitrile | 24 ml | C(C)#N | C2H3N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-chloro-8-[(6-methoxy-pyridin-3-yl)-methyl]-[1,6]naphthyridine | ClC1=C2C=CC=NC2=C(C=N1)CC=1C=NC(=CC1)OC | C15H12ClN3O
